US06310070B1
An amidation reaction and post-treatment were carried out following the conditions of Example 22, using 2.00 g (8.19 mmol) of 4-amino-1-(3-phenylpropyl)-5-imidazolecarboxamide prepared in the same manner as in Example 114 and 4-fluorobenzoyl chloride instead of benzoyl chloride to obtain 2.78 g of 4-(4-fluorobenzoylamino)-1-(3-phenylpropyl)-5-imidazolecarboxamide (yield 93%).

reactant | 4-amino-1-(3-phenylpropyl)-5-imidazolecarboxamide | 8.19 mmol, 2.00 g | NC=1N=CN(C1C(=O)N)CCCC1=CC=CC=C1 | C13H16N4O
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | 4-(4-fluorobenzoylamino)-1-(3-phenylpropyl)-5-imidazolecarboxamide | 2.78 g, yield 93% | FC1=CC=C(C(=O)NC=2N=CN(C2C(=O)N)CCCC2=CC=CC=C2)C=C1 | C20H19FN4O2
